US08168788B2
Step 1: 6-methoxy-2-trifluoromethyl-3H-quinazolin-4-one
To 2.99 mmoles of 2-amino-5-methoxy anthranilic acid in 10 mL acetonitrile, add 14.9 mmoles of pyridine. The reaction mixture was cooled in ice and then 8.97 mmoles of trifluoroacetic anhydride was added to the reaction mixture and it was slowly warmed to room temperature and allowed to stir for 2 hours. This reaction mixture was added to an ice cooled suspension of 11.96 mmoles ammonium carbonate in 5 mL acetonitrile and it was allowed to warm to room temperature and stirred overnight. The reaction mixture was concentrated to a thick oil, 10 mL acetic acid was added to the residue and it was heated at 118-120° C. for 2.5-3 hours. The reaction mixture was concentrated and then a 1:1 soln of ethanol-water was added, the white solid obtained was filtered and washed with fresh cold ethanol-water and vacuum dried to yield the title compound in 74% yield. LC-MS: m/z=245 (M++1)

reactant | 2-amino-5-methoxy anthranilic acid | 2.99 mmoles | NC1(C(C(=O)O)C=C(C=C1)OC)N | C8H12N2O3
reactant | pyridine | 14.9 mmoles | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 8.97 mmoles | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | ammonium carbonate | 11.96 mmoles | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 6-methoxy-2-trifluoromethyl-3H-quinazolin-4-one | 74% yield | COC=1C=C2C(NC(=NC2=CC1)C(F)(F)F)=O | C10H7F3N2O2
